US07384963B2
N-(2-Chlorobenzyl)-N-methyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from N-(2-chlorobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and iodomethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H, d), 7.77,(1H, b), 7.62-7.33,(9H, m), 4.78-4.62,(2H, m), 2.95,(3H, s), 2.56,(3H, s), 2.33-2.29,(3H, m). LCMS; retention time 3.54 min, MH+ 432/434.

reactant | N-(2-chlorobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | ClC1=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=CC=C1 | C24H20ClN3O2
reactant | iodomethane | IC | CH3I
product | N-(2-Chlorobenzyl)-N-methyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | ClC1=C(CN(C(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C)C=CC=C1 | C25H22ClN3O2
